US08030504B2
6-Methylchroman-4-one O-methyl oxime
6-Methylchroman-4-one (Aldrich, 3.24 g, 20 mmol) was dissolved in pyridine (15 mL). Methoxylamine hydrochloride (1.84 g, 22 mmol) was added and the mixture stirred for 16 hours at ambient temperature. The pyridine was removed under reduced pressure, and the residue was added to water and diethyl ether. The aqueous layer was extracted with diethyl ether, and the combined organic layers washed with 1N sodium hydroxide and 1N hydrochloric acid and then dried with magnesium sulfate and filtered. The solvent was removed under reduced pressure to afford the title compound. 1H NMR (300 MHz, CDCl3) δ ppm 2.28 (s, 3H), 2.88 (t, J=6.27 Hz, 2H), 3.98 (s, 3H), 4.17 (t, J=6.27 Hz, 2H), 6.78 (d, J=8.48 Hz, 1H), 7.05 (dd, J=8.48, 2.03 Hz, 1H), 7.70 (d, J=2.03 Hz, 1H). MS (DCI) m/z 192.02 (M+H)+.

reactant | 6-Methylchroman-4-one | 20 mmol, 3.24 g | CC=1C=C2C(CCOC2=CC1)=O | C10H10O2
reactant | Methoxylamine hydrochloride | 22 mmol, 1.84 g | Cl.O(C)N
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 6-Methylchroman-4-one O-methyl oxime | CON=C1CCOC2=CC=C(C=C12)C | C11H13NO2
